US09403801B2
Step 2) 1-(cyclopropylmethyl)-1H-pyrazol-4-amine
To a solution of 1-(cyclopropylmethyl)-4-nitro-1H-pyrazole (8.37 g, 50.1 mmol) in methanol (150 mL) was added 10% Pd/C (840.0 mg, 0.7893 mmol). The suspension was stirred at room temperature under a H2 atmosphere for 2 h. Filtered and the filter cake was washed with MeOH (50 mL×3). The filtrate was concentrated in vacuo and the residue was purified by silica gel column chromatography (MeOH/DCM (v/v)=1/100 to 1/50) to give the title compound as purple oil (5.5 g, 80%).

reactant | 1-(cyclopropylmethyl)-4-nitro-1H-pyrazole | 50.1 mmol, 8.37 g | C1(CC1)CN1N=CC(=C1)[N+](=O)[O-] | C7H9N3O2
solvent | methanol | 150 mL | CO | CH4O
catalyst | Pd/C | 0.7893 mmol, 840.0 mg | [Pd] | Pd
product | 1-(cyclopropylmethyl)-1H-pyrazol-4-amine | 5.5 g, 80% | C1(CC1)CN1N=CC(=C1)N | C7H11N3
